Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
Vancomycin
 
Attending: ___
 
Chief Complaint:
L rearfoot ___
 
Major Surgical or Invasive Procedure:
L foot ___ Osteotomy and fusion

 
History of Present Illness:
Mr. ___ presents in ___ today for ___ of his
left foot ___ calcaneal osteotomy.  Of note, ___ he
states he had a syncopal episode outside sweeping his porch when
he fell and hurt his foot.  At the time he went to the local ER
and was worked up, and since then he was found to have the
displacement of his foot osteotomy and fixation.  He has had
extensive medical workup and clearance since then, and presents
today in good health, denies n/v/f/c.  Relates pain in his foot
is well controlled.

 
Past Medical History:
- CAD s/p MI ___, s/p DES to ___
- HTN
- HLD
- GERD
- Chronic osteomyelitis
- Bilateral foot surgeries x2 with surgical amputation of ___
digits R foot ___ ray amputation in ___
- UGIB ___
- Depression

 
Social History:
___
Family History:
Mother: ___ cancer, deceased
Father: ___, HTN, deceased
Grandmother with DM
 
Physical Exam:
Gen: Pleasant, NAD, A&OX3
Vitals: Afebrile, VSS
CV: RRR
Pulm: No respiratory distress
Abd: Soft, ND, NT
___: CFT brisk to digits left.  AROM intact to digits left. 
Sensation grossly diminished to light touch left.  Bandage c/d/i
left. Bivalve cast, clean, dry and intact and in place to the 
LLE.

 
Pertinent Results:
___   Imaging FOOT AP,LAT & OBL LEFT     
FINDINGS:  Comparison is made to previous study from ___.   
Since the previous study, there has been placement of two new 
screws across an area of calcaneal fracture and nonunion.  There 
are no signs for hardware-related complications.  The fracture 
line through the calcaneal body  is still very well seen.  There 
has been previous resection of the fifth toe at the MTP joint.  
There is generalized demineralization.  There are several bony 
densities adjacent to the cuboid.  These findings appear stable.

___ 07:10AM BLOOD WBC-6.5 RBC-3.20*# Hgb-9.5* Hct-29.6* 
MCV-92# MCH-29.7 MCHC-32.1 RDW-14.4 Plt ___
___ 07:10AM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-319* UreaN-14 Creat-1.1 Na-133 
K-4.4 Cl-99 HCO3-30 AnGap-8
___ 07:10AM BLOOD Calcium-8.7 Phos-2.2* Mg-1.9
 
Brief Hospital Course:
This patient was admitted postoperatively to the podiatric 
surgical floor s/p left foot ___ ___ calcaneal osteotomy. 
The patient tolerated the procedure and anesthesia well without 
any complications. For full procedure details, please see the 
operative note. Patient was given 3 doses of 
ancef and was had strict non-weightbearing to the LLE orders. He 
had a bivalve cast fashioned for him and worked with Physical 
Therapy. His pain was well controlled, and he tolerated his diet 
without complciation. He did complain of an inability to fall 
asleep on his last hospital night, however this resolved with 
tylenol. There were no other complications during his hospital 
stay. He was discharged in stable condition in NAD. He will 
wollow up with Dr. ___ in 1 week.
 
Medications on Admission:
AMLODIPINE - amlodipine 10 mg tablet. 1 tablet(s) by mouth once 
a
day
ATORVASTATIN [LIPITOR] - Lipitor 40 mg tablet. 1 tablet(s) by
mouth daily
CLOPIDOGREL - clopidogrel 75 mg tablet. TAKE 1 TABLET BY MOUTH
ONCE A DAY
GABAPENTIN - gabapentin 300 mg capsule. ___ capsule(s) by mouth
tid for diabetic neuropathy
INSULIN GLARGINE [LANTUS] - Lantus 100 unit/mL Sub-Q. 71 units 
SC
at bedtime -  (Prescribed by Other Provider)
INSULIN LISPRO [HUMALOG] - Humalog 100 unit/mL SubQ Cartridge. 
as
directed daily B/L/d 71-120 8units; 121-150 8 U; 151-180 10 U,
181-210 12U (and 2 U bed)
INSULIN LISPRO [HUMALOG] - Humalog 100 unit/mL Sub-Q. INJECT
SUBCUTANEOUSLY AS DIRECTED PER SLIDING SCALE USE APPROXIMATELY 
92
UNITS PER DAY
LISINOPRIL - lisinopril 40 mg tablet. one tablet(s) by mouth 
once
a day
METOPROLOL SUCCINATE - metoprolol succinate ER 25 mg
tablet,extended release 24 hr. 1 tablet extended release 24 
hr(s)
by mouth Once daily
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. one
capsule,delayed ___ by mouth twice daily
SERTRALINE - sertraline 50 mg tablet. one Tablet(s) by mouth 
once
a day
TRAMADOL - tramadol 50 mg tablet. ___ tablet(s) by mouth every
___ hours as needed for pain
TRAZODONE - trazodone 50 mg tablet. 1 Tablet(s) by mouth at
bedtime
 
Medications - OTC
ASPIRIN [ASPIR-81] - Aspir-81 81 mg tablet,delayed release. 1
Tablet(s) by mouth once a day
BLOOD SUGAR DIAGNOSTIC [ONE TOUCH ULTRA TEST] - One Touch Ultra
Test Strips. TEST FOUR TIMES A DAY
FERROUS SULFATE - ferrous sulfate 325 mg (65 mg iron)
tablet,delayed release. 1 tablet,delayed release (___) by
mouth daily -  (Prescribed by Other Provider) (Not Taking as
Prescribed: discontinued himself)
INSULIN SYRINGE-NEEDLE U-100 [BD ECLIPSE ___ - BD Eclipse
___ 1 mL 30 x ___ Syringe. use as directed four times a 
day
substitutes for BD Ultra Fine syringe which pt reports is not
manufacturered anymore
SENNOSIDES [___] - ___ 8.6 mg tablet. 1
tablet(s) by mouth twice a day as needed for constipation -  
(Not
Taking as Prescribed: discontinued himself when he d/c'd his
iron)

 
Discharge Medications:
1. Glargine 71 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
2. Lisinopril 40 mg PO DAILY 
3. Omeprazole 20 mg PO BID 
4. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
5. Sertraline 50 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Gabapentin 300 mg PO TID 
8. Ferrous Sulfate 325 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Atorvastatin 40 mg PO DAILY 
11. Clopidogrel 75 mg PO DAILY 
12. Amlodipine 10 mg PO DAILY 
13. Acetaminophen ___ mg PO Q6H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left rearfoot fusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after your left hindfoot fusion 
procedure. You received IV 
antibiotics while you were here and worked with physical 
therapy, who cleared you to return to rehab.  You  were placed 
in a bi-valve cast which should remain on at all times. You 
should remain Non-weight bearing to your right foot. Again, 
please do NOT remove the dressing and bivalve cast. Keep this  
clean, dry, and intact.
Please keep all follow up appointments. If you notice any of the 
following, please call the office or return to the ER 
immediately: 
increased redness/swelling/drainage/pain/nausea/
vomiting/fever > 101/chills or any other concerning symptoms.

 
Followup Instructions:
___